US04332784
(i) Preparation of N-trifluoroacetyl triiodothyronine
Triiodothyronine (456.7 mg) was suspended in trifluoroacetic anhydride (20 ml) and the mixture stirred under reflux for 41/2 hours. The trifluoroacetic anhydride was removed by evaporation under reduced pressure. The residue was washed with water (3×25 ml) and then dried in vacuo. Yield of N-trifluoroacetyl triiodothyronine, 341.3 mg.

reactant | Triiodothyronine | 456.7 mg | N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C=C1)O)C(=O)O | C15H12I3NO4
reactant | trifluoroacetic anhydride | 20 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | N-trifluoroacetyl triiodothyronine | FC(C(=O)N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C=C1)O)C(=O)O)(F)F | C17H11F3I3NO5
